US06794403B2
4-(6-Hydroxy-1,3-benzoxazol-2-yl)benzene-1,2-diol
The title compound was prepared in substantially the same manner as described in Example 1, from 2,4-dimethoxyaniline, and 3,4-dimethoxybenzoic acid and was obtained as a white solid, m.p. 282-284° C.; MS m/e 242 (M−H)+.

reactant | 2,4-dimethoxyaniline | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | 3,4-dimethoxybenzoic acid | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
product | 4-(6-Hydroxy-1,3-benzoxazol-2-yl)benzene-1,2-diol | OC1=CC2=C(N=C(O2)C=2C=C(C(=CC2)O)O)C=C1 | C13H9NO4
